US03971773
A. 21-Chloro-16α-(2,2-diethoxyethoxy)-11β,17-dihydroxypregna-1,4-diene-3,20-dione
A solution of 2,2-diethoxy-1-diazoethane (prepared from 0.0935 mole of N-2,2-diethoxyethyl urea by the method of W. Kirmse and M. Buschhoff, Chem. Ber., 100, 1491 (1967)) in 300 ml of 3:2 ether-pentane is diluted with 100 ml of methanol and cooled to 0°C. 21-Chloro-11β,16α,17-trihydroxypregna-1,4-diene-3,20-dione, 16,17-cycloborate is added in portions until nitrogen evolution ceases. The solvent is removed in vacuo to yield the title compound.

reactant | 2,2-diethoxy-1-diazoethane | C(C)OC(C=[N+]=[N-])OCC | C6H12N2O2
reactant | N-2,2-diethoxyethyl urea | 0.0935 mole | C(C)OC(CNC(=O)N)OCC | C7H16N2O3
reactant | 21-Chloro-11β,16α,17-trihydroxypregna-1,4-diene-3,20-dione | ClCC([C@]1([C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)O)O)=O | C21H27ClO5
solvent | methanol | 100 ml | CO | CH4O
product | 21-Chloro-16α-(2,2-diethoxyethoxy)-11β,17-dihydroxypregna-1,4-diene-3,20-dione | ClCC([C@]1([C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)OCC(OCC)OCC)O)=O | C27H39ClO7
